US07414061B2
a) 5-Methoxymethyl-3-phenyl-isoxazole-4-carboxylic acid methyl ester
As described for Example 36c, (E)- and/or (Z)-N-hydroxy-benzenecarboximidoyl chloride (14.04 g, 90 mmol) was converted, using 4-methoxy-3-oxo-butyric acid methyl ester instead of acteylacetone to the crude title compound (18.76 g) which was obtained as an off-white solid and used directly in the next step without further purification.

reactant | (Z)-N-hydroxy-benzenecarboximidoyl chloride | 90 mmol, 14.04 g | O\N=C(\C1=CC=CC=C1)/Cl | C7H6ClNO
reactant | 4-methoxy-3-oxo-butyric acid methyl ester | COC(CC(COC)=O)=O | C6H10O4
product | 5-Methoxymethyl-3-phenyl-isoxazole-4-carboxylic acid methyl ester | 18.76 g | COC(=O)C=1C(=NOC1COC)C1=CC=CC=C1 | C13H13NO4
